US04273866
A solution of 31.5 g of the N-hydroxysuccinimide ester of N-benzyloxycarbonylglycine [J. Am. Chem. Soc., 86, 1839, (1964)] in 100 ml of tetrahydrofuran is reacted dropwise with 12 g of 6-amino-1-hexanol in 50 ml of 50% methanol in tetrahydrofuran. The reaction is stirred for 12 hours at 23° C. and poured into water. The resulting precipitate is washed thoroughly with water, filtered, and dried to provide crude N-(benzyloxycarbonylglycyl)-6-amino-1-hexanol. The pure compound recrystallized from ethyl acetate has a melting point of 104°-5° C.

reactant | N-benzyloxycarbonylglycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 6-amino-1-hexanol | 12 g | NCCCCCCO | C6H15NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | N-(benzyloxycarbonylglycyl)-6-amino-1-hexanol | C(C1=CC=CC=C1)OC(=O)NCC(=O)NCCCCCCO | C16H24N2O4
